US07253178B2
2-(Benzyloxy)isonicotinaldehyde
A suspension of [2-(benzyloxy)-4-pyridyl]methanol (6.0 g) and activated manganese dioxide (30 g) in chloroform (180 mL) was heated under reflux for 2.5 hours. After the reaction solution was allowed to cool to room temperature, the manganese dioxide was filtered off and washed with ethyl acetate. The filtrate was concentrated to give the title compound as a pale brown oil (5.34 g).

reactant | [2-(benzyloxy)-4-pyridyl]methanol | 6.0 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1)CO | C13H13NO2
solvent | chloroform | 180 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 30 g | [O-2].[O-2].[Mn+4]
product | 2-(Benzyloxy)isonicotinaldehyde | 5.34 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CN1 | C13H11NO2
